US08420670B2
(3,4-Dichlorobenzyl)-(8-methanesulfonyl-2-methylquinolin-4-yl)-amine
H2O2 (30%, 18.0 mg, 0.53 mmole) was added dropwise to a solution of (3,4-dichlorobenzyl)-(8-methanesulfinyl-2-methylquinolin-4-yl)-amine (50 mg, 0.132 mmole) in acetic acid (3.5 mL) at 0° C. The mixture was stirred at 70° C. for 16 hrs, concentrated by half, 2N NaOH was added and the resulting mixture was extracted with ethyl acetate. The organic phases were dried and concentrated. Precipitation in ethyl acetate gave the product as white solid (32 mg, 61%).

reactant | H2O2 | 0.53 mmole, 18.0 mg | OO | H2O2
reactant | (3,4-dichlorobenzyl)-(8-methanesulfinyl-2-methylquinolin-4-yl)-amine | 0.132 mmole, 50 mg | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)S(=O)C)C)C=CC1Cl | C18H16Cl2N2OS
solvent | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
product | (3,4-Dichlorobenzyl)-(8-methanesulfonyl-2-methylquinolin-4-yl)-amine | 32 mg, 61% | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)S(=O)(=O)C)C)C=CC1Cl | C18H16Cl2N2O2S
